### PR TITLE
[Merged by Bors] - refactor: Subfield of DivisionRing, not just Field

### PR DESCRIPTION
**Pull request by alreadydone**
The definition of `Subfield.closure` is changed to use `sInf` like many substructures. In the commutative case (at the end of the file), it's shown to be equal to the original version, renamed to `commClosure`, in the new lemma `commClosure_eq_closure`. No lemma is removed, and all lemma statements remain the same.

I do not change the name `Subfield` to `SubdivisionRing` as this kind of name abuse is accepted practice in mathlib, and since a division ring is also called a skew field.

Also generalizes `RingHom.eqLocus(Field)` slightly.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Subring/Basic.lean [hunk 1]
```diff
@@ -1234,6 +1234,10 @@ theorem range_top_of_surjective (f : R →+* S) (hf : Function.Surjective f) :
   range_top_iff_surjective.2 hf
 #align ring_hom.range_top_of_surjective RingHom.range_top_of_surjective
 
+section eqLocus
+
+variable {S : Type v} [Semiring S]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Subring/Basic.lean:1239]: Is this a change? Can you either revert it, mention it in the commit message, or move it to it's own PR?

File: Mathlib/FieldTheory/Subfield.lean [hunk 2]
```diff
@@ -941,4 +910,64 @@ theorem closure_preimage_le (f : K →+* L) (s : Set L) : closure (f ⁻¹' s) 
...
+    (∏ i in t, f i) ∈ s :=
+  prod_mem h
+#align subfield.prod_mem Subfield.prod_mem
+
+instance toAlgebra : Algebra s K :=
+  RingHom.toAlgebra s.subtype
+#align subfield.to_algebra Subfield.toAlgebra
+
+/-- The `Subfield` generated by a set in a field. -/
+def commClosure (s : Set K) : Subfield K where
```
Comment (eric-wieser) [inline Mathlib/FieldTheory/Subfield.lean:938]: I'm not convinced this is the right design; we don't have this for any other subject yet, right? I think I'd prefer to see it in a separate PR

**Comment by eric-wieser** [comment]
I assume this is essentially a port of https://github.com/leanprover-community/mathlib/pull/8919 ?

**Comment by eric-wieser** [comment]
Which raises: does `IntermediateField` deserve the same generalization?

File: Mathlib/FieldTheory/Subfield.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Subfield.lean:938]: I can make this private if you want; it's just a convenient definition to prove `mem_closure_iff` in the commutative case. It turns out people have only been using `mem_closure_iff` rather than the definition of `closure` throughout mathlib, and that's why this refactor needs to fix no other files. (If it's made private then `commClosure_eq_closure` will also be private.)

File: Mathlib/RingTheory/Subring/Basic.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Subring/Basic.lean:1239]: Yeah I'll add it to the commit message. It's a rather trivial change (Ring to Semiring). I simply saw an opportunity to generalize `eqLocusField` which requires generalizing this too.

**Comment by alreadydone** [comment]
Indeed this is super similar to the work you've already done 2 years ago! @jcommelin thought it should be named `Subdivisionring` (or `SubdivisionRing`?) but changing the name would require fixing a lot of files, or maybe we can make an alias / abbrev Subfield for the commutative case, which would also make it less awkward for the most of people who will only work with fields.

Generalizing `IntermediateField` is a good idea too, as (maximal) subfields in central simple algebras (e.g. quaternion algebras) are important in number theory, for example. However, this only warrant a generalization to IntermediateFields between a Field and a DivisionRing, not two DivisionRings, and we probably want to bake in commutativity, so maybe a dedicated type for maximal subfields is more appropriate. On the other hand, people do study extension of division rings and even their Galois theory, and a fully generalized IntermediateField might be more applicable in that case. I would be happy to see the generalization done in another PR, and hopefully it only incurs minimal changes.

**Review by jcommelin — APPROVED** [review]
LGTM, but maybe make the `commClosure` decl private, as you suggest.

bors d+

File: Mathlib/FieldTheory/Subfield.lean [hunk 3]
```diff
@@ -939,4 +915,58 @@ theorem closure_preimage_le (f : K →+* L) (s : Set L) : closure (f ⁻¹' s) 
...
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Subfield.lean:938]:
```suggestion
private def commClosure (s : Set K) : Subfield K where
```

File: Mathlib/FieldTheory/Subfield.lean [hunk 4]
```diff
@@ -939,4 +915,58 @@ theorem closure_preimage_le (f : K →+* L) (s : Set L) : closure (f ⁻¹' s) 
...
+    by_cases hy0 : dy = 0; · rwa [hy0, div_zero, add_zero]
+    exact
+      ⟨nx * dy + dx * ny, Subring.add_mem _ (Subring.mul_mem _ hnx hdy) (Subring.mul_mem _ hdx hny),
+        dx * dy, Subring.mul_mem _ hdx hdy, (div_add_div nx ny hx0 hy0).symm⟩
+  mul_mem' := by
+    rintro _ _ ⟨nx, hnx, dx, hdx, rfl⟩ ⟨ny, hny, dy, hdy, rfl⟩
+    exact ⟨nx * ny, Subring.mul_mem _ hnx hny, dx * dy, Subring.mul_mem _ hdx hdy,
+      (div_mul_div_comm _ _ _ _).symm⟩
+
+theorem commClosure_eq_closure {s : Set K} : commClosure s = closure s :=
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Subfield.lean:960]:
```suggestion
private theorem commClosure_eq_closure {s : Set K} : commClosure s = closure s :=
```

**Comment by alreadydone** [comment]
Thanks!
